US04751227
In a solution of 12.3 g of conc. hydrochloric acid, 45 ml of water and 45 ml of methanol was dissolved 20 g of 6-isobutenylimidazo[1,2-a]pyridine. The solution was cooled to -5° C. Ozone was introduced to the solution at -5° to 0° C. for 4 hours. The endpoint of the reaction was confirmed by thin layer chromatography. After completion of the reaction, a solution of 30.6 g of sodium sulfite in 160 ml of water was dropwise added under cooling at such a rate that the temperature did not exceed 20° C. Next, 22 g of sodium bicarbonate and an appropriate amount of salt were added as solids and the mixture was extracted with chloroform. The chloroform extract was washed twice with a saturated saline solution. After drying over magnesium sulfate, chloroform was removed by distillation under reduced pressure. The residue was purified by distillation under reduced pressure to obtain 14.2 g (70.5%) of 1 -(imidazo[1,2-a]pyridine-6-yl)-2-propanone.

reactant | 6-isobutenylimidazo[1,2-a]pyridine | 20 g | C(=C(C)C)C=1C=CC=2N(C1)C=CN2 | C11H12N2
reactant | Ozone | O=[O+][O-] | O3
reactant | sodium sulfite | 30.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 22 g | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 12.3 g | Cl | ClH
solvent | water | 45 ml | O | H2O
solvent | methanol | 45 ml | CO | CH4O
solvent | water | 160 ml | O | H2O
product | 1 -(imidazo[1,2-a]pyridine-6-yl)-2-propanone | 14.2 g, 70.5% | N=1C=CN2C1C=CC(=C2)CC(C)=O | C10H10N2O
